2188-12-18 02:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80M admitted in [**Month (only) 1780**] with retroperitoneal mass due to abscess and
   empyema - isolated unusual GNR. He underwent VATS and pig-tailed
   catheter in abscess. He returned to ER with PE while off of coumadin -
   anticoagulation restarted.
   Returns now with hypoxemia and dyspnea. CXR apparently showed new left
   infiltrate and he was treated with CTX/azithro and transferred. In our
   ER, he required bipap then intubation for hypercarbic respiratory
   failure and mental status decline.  Prior to intubation ABG showed
   7.29/94/81.
   CT-A showed no significant changes from prior CT, head CT negative. He
   was given vanco as well and admitted to ICU.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CAD, CABG
   AF
   CHF
   Left hemothorax , s/p thoracoscopy and decortication
04 following CABG
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2188-12-18**] 02:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 85 (79 - 85) bpm
   BP: 142/69(87) {142/69(87) - 142/69(87)} mmHg
   RR: 24 (24 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
             5 mL
   PO:
             TF:
   IVF:
   5 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    475 mL
   Urine:
   475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.65/34/404/39/16
   Ve: 14.4 L/min
   PaO2 / FiO2: 1,010
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic, Sedated
   Labs / Radiology
   11.7 g/dL
   141 K/uL
   104 mg/dL
   1.1 mg/dL
   39 mEq/L
   5.2 mEq/L
   41 mg/dL
   103 mEq/L
   149 mEq/L
   38.7 %
   4.2 K/uL
        [image002.jpg]
                            [**2188-12-17**]  11:04 PM
                            [**2188-12-18**]  12:43 AM
   WBC
   4.2
   Hct
   38.7
   Plt
   141
   Cr
   1.1
   TCO2
   39
   Glucose
   104
   Other labs: PT / PTT / INR:24.9/33.6/2.4, CK / CKMB / Troponin-T:23//,
   ALT / AST:30/33, Alk Phos / T Bili:47/0.9, Differential-Neuts:72.9 %,
   Lymph:19.4 %, Mono:6.5 %, Eos:0.7 %, Albumin:3.9 g/dL, LDH:197 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Respiratory failure
 cause of hypercarbic respiratory failure unclear.
   Suspect he has significant restrictive lung disease due to history of
   bilateral pleural processes. Chest CT doesn
t show new infiltrates, nor
   PE. Head CT initially unremarkable. His rigors suggest infection though
   imaging doesn
t support pneumonia.
   Will cover with empiric antibiotics for now, continue vent support.
   Recent PE (doubt)
 continue anticoagulation
   Recent empyema, retroperitoneal abscess
 completed antibiotics and
   pig-tail catheter removed. Follow blood cultures
   ICU Care
   Nutrition: NPO for possible extubation tomorrow
   Glycemic Control:
   Lines:  PIVs
   Prophylaxis:
   DVT: fully anticoagulated
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 43 minutes
   Patient is critically ill

2188-12-18 09:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt denies any pain --> arousable this AM
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-12-18**] 02:00 AM
   Levofloxacin - [**2188-12-18**] 03:00 AM
   Metronidazole - [**2188-12-18**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-12-18**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 69 (69 - 85) bpm
   BP: 142/60(84) {130/53(74) - 149/63(88)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
             1,105 mL
   PO:
             TF:
   IVF:
   1,105 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    865 mL
   Urine:
   865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 378 (378 - 378) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.54/42/165/39/12
   Ve: 4.8 L/min
   PaO2 / FiO2: 412
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, arousable and
   answering yes/no questions
   [**Year (4 digits) 358**] / Radiology
   11.7 g/dL
   141 K/uL
   104 mg/dL
   1.1 mg/dL
   39 mEq/L
   5.2 mEq/L
   41 mg/dL
   103 mEq/L
   149 mEq/L
   38.7 %
   4.2 K/uL
        [image002.jpg]
                            [**2188-12-17**]  11:04 PM
                            [**2188-12-18**]  12:43 AM
                            [**2188-12-18**]  03:32 AM
                            [**2188-12-18**]  06:10 AM
   WBC
   4.2
   Hct
   38.7
   Plt
   141
   Cr
   1.1
   TropT
   0.15
   TCO2
   39
   36
   37
   Glucose
   104
   Other [**Year (4 digits) **]: PT / PTT / INR:24.9/33.6/2.4, CK / CKMB /
   Troponin-T:23//0.15, ALT / AST:30/33, Alk Phos / T Bili:47/0.9,
   Differential-Neuts:72.9 %, Lymph:19.4 %, Mono:6.5 %, Eos:0.7 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.9 g/dL, LDH:197 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   80 yo man with hypercarbic respiratory failure in setting of recnt R
   empyema and retroperitoneal collections
   Respiratory failure
 his admission [**Doctor Last Name **] and ED ABG are consistent with
   a significant chronic component to his hypercarbic respiratory
   failure.  He likely has significant restrictive disease that is largely
   extraparenchymal.  Still reasonable to empirically cover with
   vanc/levo/flagyl - CXR today has a RUL infiltrate not seen on
   yesterday's CT or CXR.  He has a history of unusual Pantoea infection.
   He has been overventilated by [**Last Name (LF) **], [**First Name3 (LF) 124**] allow his pCO2 to drift upward
   to the 60s as an estimate of his baseline pCO2.
   PE - on re-exam of CTA from [**Month (only) **], PE very small if present at all.  Cont
   anticoagulation.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-18**] 12:00 AM
   18 Gauge - [**2188-12-18**] 01:00 AM
   Arterial Line - [**2188-12-18**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  - will contact wife this AM
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2188-12-19 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2188-12-18**] 02:53 PM
   Lower urine output o/n
 crackles and pedal edema, given home 40IV
   lasix.
   Speech & swallow consult placed; concern for aspiration.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2188-12-18**] 03:00 AM
   Vancomycin - [**2188-12-18**] 07:49 PM
   Metronidazole - [**2188-12-19**] 12:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-12-18**] 10:09 PM
   Heparin Sodium (Prophylaxis) - [**2188-12-19**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-19**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 76 (65 - 80) bpm
   BP: 134/55(78) {106/47(66) - 153/147(150)} mmHg
   RR: 22 (14 - 42) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 87.7 kg (admission): 84.4 kg
             Total In:
                                                                  3,219 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                  3,219 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    770 mL
   Urine:
                                                                  1,305 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,914 mL
                                                                   -599 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 352 (352 - 378) mL
   PS : 5 cmH2O
   RR (Set): 7
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 67
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/67/48/38/10
   (prior:
                                    160*
                                   90*[1]
                                    7.27*
                                   43*[1]
   Ve: 7.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   GEN
 nad, alert, oriented, hoarse voice, denies pain or sob
   CV
 rrr, no murmurs
   PULM
 mild crackles right lung base
   ABD
 soft, nt, nd
   EXTR
 2+ pedal edema b/l
   Labs / Radiology
   141 K/uL
   10.5 g/dL
   96 mg/dL
   1.1 mg/dL
   38 mEq/L
   4.0 mEq/L
   36 mg/dL
   101 mEq/L
   141 mEq/L
   33.6 %
   3.0 K/uL
        [image002.jpg]
                            [**2188-12-17**]  11:04 PM
                            [**2188-12-18**]  12:43 AM
                            [**2188-12-18**]  03:32 AM
                            [**2188-12-18**]  06:10 AM
                            [**2188-12-18**]  10:39 AM
                            [**2188-12-18**]  02:24 PM
                            [**2188-12-18**]  05:12 PM
                            [**2188-12-19**]  04:25 AM
                            [**2188-12-19**]  04:47 AM
                            [**2188-12-19**]  06:38 AM
   WBC
   4.2
   3.0
   Hct
   38.7
   34.8
   33.6
   Plt
   141
   141
   Cr
   1.1
   1.1
   TropT
   0.15
   TCO2
   39
   36
   37
   41
   40
   43
   41
   Glucose
   104
   96
   Other labs: PT / PTT / INR:22.1/39.7/2.1, CK / CKMB /
   Troponin-T:23//0.15, ALT / AST:30/33, Alk Phos / T Bili:47/0.9,
   Differential-Neuts:72.9 %, Lymph:19.4 %, Mono:6.5 %, Eos:0.7 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.9 g/dL, LDH:197 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   TSH: 35
   CXR: no significant change in lung fields, now extubated (my read).
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   80M s/p VATS and drainage of an empyema and retroperitoneal abscess
   infected with Pantoea spp (an Enterobacter-like bacteria) and PE on
   warfarin as well as CAD s/p CABG, CHF, and Afib admitted with
   hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: Etiology unclear. R pleural effusion
   improved on CT. No PE on CTA. NCHCT for central cause of respiratory
   failure negative. No infectious workup in the ED, but infection is a
   likely cause. Pt empirically received ceftriaxone, azityhromycin, and
   vancomycin but was not cultured. Of note, his past empyema and
   retroperitoneal abscess were growing Pantoea spp, a Gram negative
   bacteria which can produce a beta lactamase. He was successfully
   treated with levofloxacin in his prior admission. Extubated
   successfully on [**12-18**]. Perhaps hypothyroidism and neuromuscular slowing
   of diaphragm/respiratory muscles contributes to hypercarbia.
   - ABG 12 hours post-extubation with hypercarbia, but oxygenating well;
   repeat with O2 delivery weaned down more to just 1L NC with less
   hypercarbia (ie: he is correcting himself; likely lives at baseline of
   pCO2 in 60s); also less O2 delivery likely helps his respiratory drive
   to blow off more CO2; seems to be somewhat of a chronic retainer (maybe
   due to physiology s/p effusions and empyema and abscess and surgeries)
   - Follow-up repeat ABG at noon today
 if improved, consider pull
   a-line and send to floor; if pCO2 rises again (or change in MS,
   oxygenation etc.) then non-invasive ventilation as a possibility if
   needed to help with the hypercarbia if he
s not tolerating it
   - Had been treating presumptively for aspiration PNA with vancomycin 1g
   IV BID, metronidazole 500mg IV TID, and levofloxacin 750mg IV daily;
   but afebrile, no leukocytosis, oxygenating well
 so d/c all these
   antibiotics today, and monitor clinically for evidence of
   aspiration/pneumonia/infection
   - Wean O2 as tolerated
   - Crackles on exam and pedal edema, restart home lasix 40mg PO daily
   .
   # Possible infection as cause of decompensation: Pt was treated for
   infection with Pantoea (an Enterobacter-like bacteria) approximately 1
   month ago. He also is a risk for aspiration.
   - d/c antibiotic treatment for aspiration PNA
   - f/u blood culture and sputum culture
   .
   # Pulmonary embolus: Diagnosed [**2188-11-22**] with segmental pulmonary
   embolism within the anterior basal segment of the right lower lobe
   pulmonary artery. Warfarin as an outpatient. Admission CTA showed no
   further PE.
   - Continue coumadin at 2mg today, then up to 4mg daily (home dose) on
   [**12-20**] (wait until [**12-20**] to bump up the dose, because of the residual
   antibiotic effect on anticoagulation)
   - Maintain up to date type and screen
   .
   # CAD: S/p CABG in [**2182**], chronically in Afib. Vpaced.
   - Continue home ASA 325mg PO daily
   - Continue home pravastatin 80mg PO HS
   - Continue home metoprolol Tartrate 50mg PO daily
   - Continue anticoagulation as above for PE and Afib
   - Monitor on telemetry
   .
   # Hypothyroidism: TSH 35 (significantly elevated); unclear if because
   of not receiving med at rehab versus inappropriate dose
   - Increase home Levothyroxine Sodium 75 mcg PO/NG DAILY to 100mcg
   - Recheck TSH in 1 month (approx mid/late [**2189-1-2**])
   .
   # FEN: IVF PRB, replete electrolytes as needed, advancing diet as
   tolerated, speech & swallow consult f/u. Send nutrition labs (albumin,
   iron, B12, folic acid). PT consult.
   # Prophylaxis: Warfarin as above, pneumoboots, PPI (change IV to PO now
   that extubated)
   # Access: Peripherals, Aline.
   # Communication: Patient and wife.
   # Code:  Full (discussed with wife in [**Name (NI) **]).
   # Disposition: After noon ABG, consider call-out to floor pending pCO2
   and respiratory status. Plan for rehab after hospitalization.
   ICU Care
   Lines:
   20 Gauge - [**2188-12-18**] 12:00 AM
   18 Gauge - [**2188-12-18**] 01:00 AM
   Arterial Line - [**2188-12-18**] 07:00 AM
   Code status: Full code

2188-12-19 09:26:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday - doing well
   Did have pCO2 of 90s overnight but with good mentation --> pCO2 now in
   the 50s
   No complaints this AM
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2188-12-18**] 02:53 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2188-12-18**] 03:00 AM
   Vancomycin - [**2188-12-18**] 07:49 PM
   Metronidazole - [**2188-12-19**] 12:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-12-18**] 10:09 PM
   Heparin Sodium (Prophylaxis) - [**2188-12-19**] 12:08 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2188-12-19**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 76 (65 - 80) bpm
   BP: 134/55(78) {106/47(66) - 153/147(150)} mmHg
   RR: 22 (16 - 42) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 87.7 kg (admission): 84.4 kg
             Total In:
                                                                  3,219 mL
                                                                    191 mL
   PO:
             TF:
   IVF:
                                                                  3,219 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    770 mL
   Urine:
                                                                  1,305 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,914 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 352 (352 - 352) mL
   PS : 5 cmH2O
   RR (Set): 7
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 67
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.43/54/98.[**Numeric Identifier 20**]/38/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 327
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), TR visible in jugular vein
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   10.5 g/dL
   141 K/uL
   96 mg/dL
   1.1 mg/dL
   38 mEq/L
   4.0 mEq/L
   36 mg/dL
   101 mEq/L
   141 mEq/L
   33.6 %
   3.0 K/uL
        [image002.jpg]
                            [**2188-12-18**]  12:43 AM
                            [**2188-12-18**]  03:32 AM
                            [**2188-12-18**]  06:10 AM
                            [**2188-12-18**]  10:39 AM
                            [**2188-12-18**]  02:24 PM
                            [**2188-12-18**]  05:12 PM
                            [**2188-12-19**]  04:25 AM
                            [**2188-12-19**]  04:47 AM
                            [**2188-12-19**]  06:38 AM
                            [**2188-12-19**]  08:58 AM
   WBC
   4.2
   3.0
   Hct
   38.7
   34.8
   33.6
   Plt
   141
   141
   Cr
   1.1
   1.1
   TropT
   0.15
   TCO2
   36
   37
   41
   40
   43
   41
   37
   Glucose
   104
   96
   Other labs: PT / PTT / INR:22.1/39.7/2.1, CK / CKMB /
   Troponin-T:23//0.15, ALT / AST:30/33, Alk Phos / T Bili:47/0.9,
   Differential-Neuts:72.9 %, Lymph:19.4 %, Mono:6.5 %, Eos:0.7 %, Lactic
   Acid:0.8 mmol/L, Albumin:3.9 g/dL, LDH:197 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   80 yo man with hypercarbic respiratory failure in setting of recnt R
   empyema and retroperitoneal collections
   Respiratory failure
 Extubated and doing wll.  Transiently hypercarbic
   overnight but better this AM and mentating clearly.  Unclear if there
   was any infectious source precipitating this event - will d/c abx.
   There may a component of hypothyroidism contributing to rspiratory
   failure - TSH of 35 - will give Synthroid 75mcg daily, check FT4, and
   adjust accordingly.  Unclear if he was recieving Synthroid at rehab.
   Hypothyroidism - as above
   PE - Cont anticoagulation for small subsegmental PE.
   Will keep in ICU this AM and monitor ABGs - could be call out to floor
   in afternnoon
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-12-18**] 12:00 AM
   18 Gauge - [**2188-12-18**] 01:00 AM
   Arterial Line - [**2188-12-18**] 07:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill